US07732618B2
a.) (4-Fluoro-3-nitro-phenyl)-carbamic acid tert-butyl ester: (Scheme 2)
To a stirred solution of 4-fluoro-3-nitro-phenylamine (10 g, 0.064 mol) in dry THF (300 mL) was added di-tert-butyl dicarbonate (25 g, 0.192 mol) and the reaction was heated to 80° C. for 24 hours. Additional di-tert-butyl dicarbonate (7.0 g, 0.032 mol) was added and the reaction was heated for 24 hours. The reaction was then concentrated, diluted in ethyl acetate, and washed three times with water. The crude product was purified by silica-gel chromatography (EtOAc/Hex) to give 8.0 g of the sub-title compound as a yellow powder. MS: ESI (negative): 255 M−H).

reactant | 4-fluoro-3-nitro-phenylamine | 0.064 mol, 10 g | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | di-tert-butyl dicarbonate | 0.192 mol, 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 0.032 mol, 7.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (4-Fluoro-3-nitro-phenyl)-carbamic acid tert-butyl ester | 8.0 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C11H13FN2O4
